US08357706B2
To (R)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate INT-52 (0.700 g, 2.7 mmol) was added anhydrous DMF (10 mL) and the reaction mixture was stirred in a 0° C. ice bath under N2. Sodium hydride (0.541 g, 13.5 mmol) was added and the mixture was stirred at 0° C. for 2 h. After 2 h, (2-bromoethoxy)-tert-butyldimethylsilane (1.43 g, 5.9 mmol) was added and the reaction mixture was allowed to warm to room temperature for 1 h. The reaction was cooled to 0° C. and quenched with MeOH followed by saturated NaHCO3. The mixture was extracted with EA and brine. The combined organic layers were dried over MgSO4, filtered, and concentrated to produce a brown oil. The crude product was purified by silica gel flash chromatography (20% EA/Hexanes) to afford 0.868 g (77%) of (R)-tert-butyl 2-(tert-butyldimethylsilyloxy)ethyl(4-cyano-2,3-dihydro-1H-inden-1-yl)carbamate INT-59 as a yellow oil. LCMS-ESI (m/z) calculated for C23H36N2O3Si: 416.6; found 317.1 [M+H−Boc]+, tR=4.05 min. 1H NMR (400 MHz, (CD3)2SO) δ 7.50 (m, 1H), 7.37 (m, 1H), 7.26 (m, 1H), 5.78 (m, 1H), 4.02 (m, 2H), 3.51 (m, 2H), 3.29 (m, 1H), 2.97 (m, 1H), 2.26 (m, 2H), 1.40 (s, 9H), 0.83 (s, 9H), 0.09 (s, 6H).

reactant | (R)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate | C(#N)C1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O | C15H18N2O2
reactant | Sodium hydride | 13.5 mmol, 0.541 g | [H-].[Na+]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 5.9 mmol, 1.43 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 2-(tert-butyldimethylsilyloxy)ethyl(4-cyano-2,3-dihydro-1H-inden-1-yl)carbamate | 0.868 g, 77% | [Si](C)(C)(C(C)(C)C)OCCN(C(OC(C)(C)C)=O)[C@@H]1CCC2=C(C=CC=C12)C#N | C23H36N2O3Si
